US09062028B2
Step H. 2-(2,3-Dimethylphenoxy)ethyl 5-(3-((3-tert-butoxy-3-oxopropylcarbamoyloxy)methyl)phenyl)-3,4-dihydroquinoline-1 (2H)-carboxylate
The title compound was prepared using a procedure analogous to methyl 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)picolinate except that 4-(2,3-dimethylphenoxy)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one was replaced by tert-butyl 3-((3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyloxy)carbonylamino)propanoate, and methyl 4-bromopicolinate was replaced by 2-(2,3-dimethylphenoxy)ethyl 5-bromo-3,4-dihydroquinoline-1(2H)-carboxylate. LCMS, [M-tBu+2H]+=547.2. 1H NMR (400 MHz, CDCl3) δ 7.64 (d, J=8.1 Hz, 1H), 7.46-7.35 (m, 2H), 7.34-7.27 (m, 1H), 7.27-7.20 (m, 1H), 7.16 (t, J=7.9 Hz, 1H), 7.03 (t, J=7.9 Hz, 1H), 6.97 (d, J=7.5 Hz, 1H), 6.79 (d, J=7.7 Hz, 1H), 6.70 (d, J=8.1 Hz, 1H), 5.12 (s, 2H), 4.60-4.52 (m, 2H), 4.24-4.19 (m, 2H), 3.73 (t, J=6.4 Hz, 2H), 3.41 (dd, J=12.0, 6.0 Hz, 2H), 2.57 (t, J=6.3 Hz, 2H), 2.44 (t, J=5.9 Hz, 2H), 2.26 (s, 3H), 2.17 (s, 3H), 1.86-1.75 (m, 2H), 1.42 (s, 9H).

reactant | methyl 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)picolinate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC(=NC=C2)C(=O)OC)C=CC=C1C | C28H30N2O4
reactant | 4-(2,3-dimethylphenoxy)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)B2OC(C(O2)(C)C)(C)C)C=CC=C1C | C27H36BNO4
reactant | tert-butyl 3-((3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyloxy)carbonylamino)propanoate | CC1(OB(OC1(C)C)C=1C=C(COC(=O)NCCC(=O)OC(C)(C)C)C=CC1)C | C21H32BNO6
reactant | methyl 4-bromopicolinate | BrC1=CC(=NC=C1)C(=O)OC | C7H6BrNO2
reactant | 2-(2,3-dimethylphenoxy)ethyl 5-bromo-3,4-dihydroquinoline-1(2H)-carboxylate | BrC1=C2CCCN(C2=CC=C1)C(=O)OCCOC1=C(C(=CC=C1)C)C | C20H22BrNO3
product | 2-(2,3-Dimethylphenoxy)ethyl 5-(3-((3-tert-butoxy-3-oxopropylcarbamoyloxy)methyl)phenyl)-3,4-dihydroquinoline-1 (2H)-carboxylate | C(C)(C)(C)OC(CCNC(=O)OCC=1C=C(C=CC1)C1=C2CCCN(C2=CC=C1)C(=O)OCCOC1=C(C(=CC=C1)C)C)=O | C35H42N2O7
